US08022223B2
Step B: Preparation of 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)-propanoic acid:
To a mixture of methyl 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)propanoate (0.100 g, 0.230 mmol) in 10 mL THF, and 5 mL water was added sodium hydroxide (0.0368 g, 0.921 mmol) and the reaction was stirred overnight. The mixture was concentrated to dryness. Water was added and washed with Et2O and EtOAc. The aqueous was acidified with a saturated NH4Cl solution, extracted with 3:1 CH2Cl2-THF. The organics were dried over Na2SO4 and concentrated to a residue. The crude solids were recrystallized from EtOAc/Hexanes to give the title compound (0.050 g, 51.7% yield). 1H NMR (d6DMSO) δ 2.58 (t, J=7.5 Hz, 2H), 2.81 (t, J=7.5 Hz, 2H), 6.66 (s, 1H), 7.10 (d, J=7.8 Hz, 2H), 7.21 (t, J=7.4 Hz, 1H), 7.39 (d, J=2.0 Hz, 1H), 7.44 (t, J=8.0 Hz, 2H), 8.21 (d, J=2.0 Hz, 1H).

reactant | methyl 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)propanoate | 0.230 mmol, 0.100 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCC(=O)OC)OC1=CC=CC=C1 | C18H16BrN3O3S
reactant | water | 5 mL | O | H2O
reactant | sodium hydroxide | 0.921 mmol, 0.0368 g | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)-propanoic acid | 0.050 g, 51.7% yield | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCC(=O)O)OC1=CC=CC=C1 | C17H14BrN3O3S
